US04659706
8-Methoxy-7-sulfamoyl-2,3,4,5-tetrahydro-1H-3benzazepine hydrochloride (1.5 g, 0.005 m) was dissolved in 48% hydrobromic acid (15 ml), refluxed for 2 hours and concentrated in vacuo. The residue was triturated with acetone and then recrystallized from methanol to give 8-hydroxy-7-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide, m.p. 315°-320° (decomp.).

reactant | 8-Methoxy-7-sulfamoyl-2,3,4,5-tetrahydro-1H-3benzazepine hydrochloride | 1.5 g | Cl.COC=1C(=CC2=C(CCNCC2)C1)S(N)(=O)=O
reactant | hydrobromic acid | 15 ml | Br | BrH
product | 8-hydroxy-7-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC=1C(=CC2=C(CCNCC2)C1)S(N)(=O)=O | InChI=1S/C10H14N2O3S.BrH/c11-16(14,15)10-6-8-2-4-12-3-1-7(8)5-9(10)13;/h5-6,12-13H,1-4H2,(H2,11,14,15);1H
